US07674912B2
1a: 4-Amino-N-thiazol-2-yl-benzamide
4-Nitro-N-thiazol-2-yl-benzamide (28 mmol) was suspended in abs. EtOH (400 mL) and ethyl acetate (200 mL) and glacial acetic acid (50 mL) was added followed by 10% Pd/C (0.5 g). The mixture was hydrogenated for 72 h at 3 bar H2. The hydrogenation mixture was filtered, and the solvent was removed under reduced pressure. The crude product was added NaHCO3 (sat.) and ethyl acetate, the remaining solid fraction was removed by filtration and dried in vacuo. The liquid phases were separated, the organics were washed with brine, dried over MgSO4, filtered and evaporated to yield a solid. The solid fractions were combined.

reactant | 4-Nitro-N-thiazol-2-yl-benzamide | 28 mmol | [N+](=O)([O-])C1=CC=C(C(=O)NC=2SC=CN2)C=C1 | C10H7N3O3S
reactant | EtOH | 400 mL | CCO | C2H6O
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.5 g | [Pd] | Pd
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 4-Amino-N-thiazol-2-yl-benzamide | NC1=CC=C(C(=O)NC=2SC=CN2)C=C1 | C10H9N3OS
